Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[C:4](#[N:5])[H:10].[O:1]([C@@:2]1([H:9])[C@@:3]2([H:11])[C:6]1=[C:7]2[H:12])[H:8],103.312073465732
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[N:6]([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:14].[N:2]1([C:3]([H:10])([H:11])[H:12])/[C:4](=[N:6]/[H:13])[O:5]1,99.741919500202
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O:1](/[C:2](=[N:3]/[H:8])[H:7])[C:6](=[C:5]=[C:4]([H:9])[H:10])[H:11],40.3850426948435
[C:1]([C-:2]=[N+:3]([N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9],41.3919753538368
[C:4]1([O:5][H:12])=[C:7]([H:15])[C:6]1([H:13])[H:14].[O:1]([C:2](=[C:3]([H:10])[H:11])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],47.20982708601859
[N:1]([C:5]([C:4]([C:2]#[O+:3])([H:9])[H:10])=[N-:6])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],113.7931648621914
[C:1]([N+:5]#[C-:4])([H:6])([H:7])[H:8].[O:2]=[C:3]([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8],68.62688771638463
[C:1]([O:2][C:3](=[C:4]([H:11])[H:13])[C:5]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10].[C:6](#[N:7])[H:12]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10],33.668334473114015
[C:1]([C@@:2]1([O:3][H:12])[C:4]([H:13])([H:14])[N:5]([H:15])[C@:6]1([O:7][H:11])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],54.21501597433181
[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[C:2](#[N:3])[N:4]([C:5](=[O:6])[H:12])[H:11],98.6301852083528
[C:1]([C@@:2]1([H:10])[C@:3]([C:6](=[O:4])[H:12])([H:11])[C:5]1)([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],22.994703757991807
[C:6]([O:7][H:15])([H:8])([H:13])[H:14].[N:1](=[C:2]=[O:3])[H:9].[N:4](=[C:5]([H:11])[H:12])[H:10]>>[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],42.9294450838767
[C:3]([O:4][H:10])[H:9].[O:1](/[C:2](=[C:5](\[O:6][H:12])[H:11])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C@:3]([O:4][H:10])([H:9])[C@:5]1([O:6][H:12])[H:11])[H:7],3.638635656793099
[C:1]([O+:2]=[C-:3][H:12])([H:8])([H:9])[H:10].[C:4](#[N:5])[C:7]([H:14])([H:15])[H:16].[O:6]([H:11])[H:13]>>[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],26.257289214792312
[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:6](=[O:7])([H:13])[H:14].[N:1](/[C:2]([O:3][H:15])=[N:4]/[C:5]([H:10])([H:11])[H:12])([H:8])[H:9],90.48116533278879
[C:1]([C:2]([C:3]([C:4](=[C:5]=[O:6])[H:13])([H:11])[H:12])([H:10])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],50.3680547379016
[O+:1]1=[C:4]([H:10])[C:3](/[N:5]=[C:6](\[O:7][H:11])[H:12])([H:9])[C-:2]1[H:8]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],9.547780815015287
[H:7][H:9].[O+:1]#[C-:2].[O:3]=[C:4]([C:5]#[N:6])[H:8]>>[O:1]=[C:2]([O:3][C:4]([C:5]#[N:6])([H:8])[H:9])[H:7],29.80391614047022
[C:1]([C:2]([C:3]([C:4]#[C:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([H:9])[H:10])([H:6])[H:8].[C:3](=[C:4]=[C:5]([H:7])[H:13])([H:11])[H:12],42.4780360896269
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([O:6]/[C:5](=[C:4](\[C:3]([H:8])([H:9])[H:10])[H:11])[H:12])[H:7],87.99060847004681
[O:1]=[C:2]1[C:3]([H:6])([H:7])[N:4]([H:8])[C:5]1([H:9])[H:10]>>[O:1]=[C:2]([C:3]([H:6])([H:7])[H:8])[C:5]([N:4])([H:9])[H:10],74.0948967554589
[N:1](=[C:2]=[C:3]1[C:4]([H:8])=[N:5][N:6]=[N:7]1)[H:9]>>[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1,90.5761645065969
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:7])([H:10])[H:11])([O:6]/[C:5](=[C:3](\[O:4][H:13])[H:12])[H:14])([H:8])[H:9],77.274116142561
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C-:2]=[C:6]=[C+:7][H:14])([H:8])([H:9])[H:10].[C:3]([C:4]#[N:5])([H:11])([H:12])[H:13],69.3476692989079
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([O+:6]=[C-:5][C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],107.94640870226101
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]1([H:13])[C:4]([H:15])([H:16])[N:5]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:14])[H:18],101.139712872863
